US05958942
iv) Synthesis of 4,5-dihydro-4-(4-trifluoroacetamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride
To a solution of 1.13 g (3.32 mmol) of 4,5-dihydro-4-(4-trifluoroacetamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one in 20 ml of ethanol was added 0.42 ml (4.98 mmol) of 12N hydrochloric acid. The mixture was concentrated under reduced pressure. The resulting crystals was collected by filtration, which was washed with a small volume of ethanol and ether to afford 560 mg of the desired compound (44.8%, a white crystals.

reactant | 4,5-dihydro-4-(4-trifluoroacetamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one | 3.32 mmol, 1.13 g | FC(C(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C15H15F3N4O2
reactant | hydrochloric acid | 4.98 mmol, 12N, 0.42 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(4-trifluoroacetamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride | 560 mg | Cl.FC(C(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C15H15F3N4O2.ClH/c16-15(17,18)14(24)19-6-1-2-7-21-9-10-4-3-5-12-20-8-11(13(21)23)22(10)12;/h3-5,8H,1-2,6-7,9H2,(H,19,24);1H
